US06458810B1
A solution of 3-(4-amino-1-oxoisoindolin-2-yl)-5-hydroxypiperidine-2,6-dione (0.82 g, 3.0 mmol) and 2-furaldehyde (0.34 g, 3.5 mmol) in acetic acid (10 mL) is heated at reflux for 4 hours. To the mixture is added sodium borohydride (130 mg, 3.5 mmol) at room temperature and kept for 18 hours. The mixture is worked up to give 3-(4-fur-2-ylmethylamino-1-oxoisoindolin-2-yl)-5-hydroxypiperidine-2,6-dione which is further purified by column chromatography.

reactant | 3-(4-amino-1-oxoisoindolin-2-yl)-5-hydroxypiperidine-2,6-dione | 3.0 mmol, 0.82 g | NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(C(C1)O)=O)=O | C13H13N3O4
reactant | 2-furaldehyde | 3.5 mmol, 0.34 g | O1C(=CC=C1)C=O | C5H4O2
reactant | sodium borohydride | 3.5 mmol, 130 mg | [BH4-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-(4-fur-2-ylmethylamino-1-oxoisoindolin-2-yl)-5-hydroxypiperidine-2,6-dione | O1C(=CC=C1)CNC1=C2CN(C(C2=CC=C1)=O)C1C(NC(C(C1)O)=O)=O | C18H17N3O5
